US08491906B2
Carboxy methyl-t-butyl disulfide glycyl glycine t-butyl ester
A solution of 23.85 g (115.6 mmol) DCC in 430 ml CH2Cl2 was dropwise added to a solution of 21.76 g (115.6 mmol) Gly-Gly-O-tBu, 20.84 g (115.6 mmol) Carboxy methyl-t-butyl disulfide and 13.3 g (115.6 mmol) NHS in 1 l CH2Cl2. The resulting suspension was stirred over night under N2-atmosphere at room temperature. After filtration the resulting solution was washed 3× with 400 ml half-saturated aqueous NaHCO3 and 1× with 400 ml water. The dried organic layer (MgSO4) was evaporated under reduced pressure. The crude product was purified by chromatography on silica gel using a solvent gradient ranging from CH2Cl2/MeOH 99:1 to CH2Cl2/MeOH 98.5:1.5. 26.1 g (64%) were isolated as a yellow oil.

reactant | DCC | 115.6 mmol, 23.85 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Gly-Gly-O-tBu | 115.6 mmol, 21.76 g | NCC(=O)NCC(=O)OC(C)(C)C | C8H16N2O3
reactant | Carboxy methyl-t-butyl disulfide | 115.6 mmol, 20.84 g | CCC(C)(C)SSC(=O)O | C6H12O2S2
solvent | CH2Cl2 | 430 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 l | C(Cl)Cl | CH2Cl2
product | Carboxy methyl-t-butyl disulfide glycyl glycine t-butyl ester | C(C)(C)(C)OC(CNC(CN)=O)=O.CCC(C)(C)SSC(=O)O | InChI=1S/C8H16N2O3.C6H12O2S2/c1-8(2,3)13-7(12)5-10-6(11)4-9;1-4-6(2,3)10-9-5(7)8/h4-5,9H2,1-3H3,(H,10,11);4H2,1-3H3,(H,7,8)
